US04558155
N-[2-(2,3-Dichlorophenoxy)ethyl]-1-methylethanamine, Hydrochloride
Following the procedure of Example 11, 2-bromoethyl-2,3-dichlorophenyl ether was reacted with isopropyl amine (excess) and the reaction mixture processed to give an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride salt, m.p. 161°-163.5° C. in 62.7% yield.

reactant | 2-bromoethyl-2,3-dichlorophenyl ether | BrCCC1=C(C(=C(C=C1)OC1=C(C(=C(C=C1)CCBr)Cl)Cl)Cl)Cl | C16H12Br2Cl4O
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | N-[2-(2,3-Dichlorophenoxy)ethyl]-1-methylethanamine, Hydrochloride | 62.7% yield | Cl.ClC1=C(OCCNC(C)C)C=CC=C1Cl | InChI=1S/C11H15Cl2NO.ClH/c1-8(2)14-6-7-15-10-5-3-4-9(12)11(10)13;/h3-5,8,14H,6-7H2,1-2H3;1H
